US09080261B2
In some embodiments, the present invention is related to a process that produces fiber derived from the polymerization of 5(6)-amino-2-(p-aminophenyl)benzimidazole, para-phenylenediamine, and terephthaloyl dichloride at high solids (7 weight percent or greater) in NMP/CaCl2 or DMAC/CaCl2, isolates the copolymer crumb, dissolves the isolated copolymer crumb in concentrated sulfuric acid to form a liquid crystalline solution, and spins the solution into fibers.

reactant | para-phenylenediamine | C1(=CC=C(C=C1)N)N | C6H8N2
reactant | terephthaloyl dichloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | NMP CaCl2 | CN1CCCC1=O.[Cl-].[Cl-].[Ca+2]
product | DMAC CaCl2 | CC(=O)N(C)C.[Cl-].[Cl-].[Ca+2] | InChI=1S/C4H9NO.Ca.2ClH/c1-4(6)5(2)3;;;/h1-3H3;;2*1H/q;+2;;/p-2
